US09079834B2
To a solution of methyl N6-(tert-butoxycarbonyl)-L-lysinate hydrochloride (5.0 g, 16.85 mmol) and triethylamine (2.82 mL, 20.22 mol) in dichloromethane (84 mL) was added a solution of di-tert-butyl dicarbonate (3.7 g, 16.85 mmol) in dichloromethane (10 mL). The reaction mixture was stirred at room temperature overnight, poured into 10% KHSO4, and extracted with dichloromethane (2×). The combined organics were washed with saturated aqueous NaHCO3, brine, dried over MgSO4, filtered and concentrated to yield 6.1 g of methyl N2,N6-bis(tert-butoxycarbonyl)-L-lysinate as an off white solid. MS: M+Na=383. The residue was dissolved in THF (85 mL), and the solution was cooled to 0° C. 2 M of LiBH4 in THF (12.69 mL, 25.4 mmol) was slowly added. The reaction mixture was stirred at room temperature for 1 hour, then at 50° C. for 1 hour. It was then cooled to 0° C. and methanol was carefully added (1.5 mL). The reaction temperature was allowed to stand at room temperature, and 1 N NaOH (2 mL) was added followed by the addition of brine. The reaction mixture was vigorously stirred at room temperature for 30 min, then extracted with EtOAc (2×). The combined organics were washed with brine, dried over MgSO4, filtered and concentrated to yield 5.8 g of bis-Boc-lysinol material as a colorless viscous oil. MS (M+Na)=355.

reactant | methyl N6-(tert-butoxycarbonyl)-L-lysinate hydrochloride | 16.85 mmol, 5.0 g | Cl.C(C)(C)(C)OC(=O)NCCCC[C@H](N)C(=O)OC
reactant | triethylamine | 20.22 mol, 2.82 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 16.85 mmol, 3.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | dichloromethane | 84 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methyl N2,N6-bis(tert-butoxycarbonyl)-L-lysinate | 6.1 g | C(C)(C)(C)OC(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C17H32N2O6
